US06521666B1
3-Chloro-4-methoxycarbonylbenzoic acid (0.24 g) was dissolved in DMF (2.5 mL) under N2 then CDI (0.36 g) was added and the resulting mixture was stirred at 40° C. for 2 h. t-BuOH (0.54 mL) and DBU (0.33 mL) were added and the resulting mixture was stirred at 40° C. for 2 days. The mixture was evaporated and the residue was taken up with AcOEt, washed with 1N HCl and sat. NaHCO3, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: toluene) to give 2-chloro-4-(tert-butoxycarbonyl)benzoic acid methyl ester (216 mg).

reactant | 3-Chloro-4-methoxycarbonylbenzoic acid | 0.24 g | ClC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7ClO4
reactant | CDI | 0.36 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | t-BuOH | 0.54 mL | CC(C)(C)O | C4H10O
reactant | DBU | 0.33 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(tert-butoxycarbonyl)benzoic acid methyl ester | 216 mg | COC(C1=C(C=C(C=C1)C(=O)OC(C)(C)C)Cl)=O | C13H15ClO4
